US08754050B2
Step 2: Preparation of 2-(2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxamido)-2-methylpropanoic acid
Methyl 2-(2-((tert-butoxycarbonylamino)methyl) thiazole-4-carboxamido)-2-methylpropanoate (2.4 g, 6.7 mmole) was dissolved in 10 mL methanol and 3 mL water. To the mixture, lithium hydroxide monohydrate (0.56 g, 13.4 mmole) was then added. The reaction was stirred at room temperature until TLC indicated complete consumption of starting material. To the mixture, water and EtOAc were added, and the aqueous layer was acidified with 2 N HCl to about PH 7. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layer was dried over Na2SO4 and concentrated to provide the desired product as a white solid (2.3 g, quantitative yield).

reactant | Methyl 2-(2-((tert-butoxycarbonylamino)methyl) thiazole-4-carboxamido)-2-methylpropanoate | 6.7 mmole, 2.4 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)NC(C(=O)OC)(C)C | C15H23N3O5S
reactant | lithium hydroxide monohydrate | 13.4 mmole, 0.56 g | O.[OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 2-(2-((tert-butoxycarbonylamino)methyl)thiazole-4-carboxamido)-2-methylpropanoic acid | 2.3 g, quantitative yield | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)NC(C(=O)O)(C)C | C14H21N3O5S
